US06465493B1
Preparation 6: 2-Amino-1-benzo[1,3]dioxol-5-yl-2-pyridin-2-yl-ethanone dihydrochloride
1-Benzo[1,3]dioxol-5-yl-2-pyridin-2-yl-ethane-1,2-dione 2-oxime (2 g, 7.75 mmol) was dissolved in ethanol (100 ml) and hydrochloric acid (2 ml of a 36% solution in water) was added. Palladium on charcoal catalyst (0.5 g) was added and the reaction mixture was stirred under a positive pressure of hydrogen for 1.5 hours. The catalyst was removed by filtration through Kieselguhr and the resulting filtrate evaporated to dryness under reduced pressure. Trituration under anhydrous diethyl ether gave the title compound as a pale yellow solid (1.5 g, 59%); m/z (API) 257 (M+H+, 100%).

reactant | 1-Benzo[1,3]dioxol-5-yl-2-pyridin-2-yl-ethane-1,2-dione 2-oxime | 7.75 mmol, 2 g | O1COC2=C1C=CC(=C2)C(C(=NO)C2=NC=CC=C2)=O | C14H10N2O4
reactant | hydrochloric acid | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | O | H2O
catalyst | Palladium on charcoal | 0.5 g | [Pd] | Pd
product | 2-Amino-1-benzo[1,3]dioxol-5-yl-2-pyridin-2-yl-ethanone dihydrochloride | 1.5 g, 59% | Cl.Cl.NC(C(=O)C1=CC2=C(OCO2)C=C1)C1=NC=CC=C1 | InChI=1S/C14H12N2O3.2ClH/c15-13(10-3-1-2-6-16-10)14(17)9-4-5-11-12(7-9)19-8-18-11;;/h1-7,13H,8,15H2;2*1H
